US08278328B2
Description 65. trans-4-Ethoxycyclohexylamine (D65)
A solution of trans-N-(4-ethoxycyclohexyl)phthalimide (D64, 16.35 g), hydrazine hydrate (12 mL) in ethanol (300 mL) and methanol (200 mL) was stirred at reflux for 3 hours. The solvent was removed to give a slurry, which was treated with diethyl ether and filtered. The filtrate was evaporated to afford the title compound as a viscous oil contaminated with ether (8.16 g).

reactant | trans-N-(4-ethoxycyclohexyl)phthalimide | 16.35 g | C(C)O[C@@H]1CC[C@H](CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C16H19NO3
reactant | hydrazine hydrate | 12 mL | O.NN
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | methanol | 200 mL | CO | CH4O
product | trans-4-Ethoxycyclohexylamine | C(C)O[C@@H]1CC[C@H](CC1)N | C8H17NO
